US04127581
To 10 ml. of anhydrous tetrahydrofuran at -20° C. were added 1.3 g. of ethanethiol and 13 ml. of 1.6 M n-butyllithium solution and the mixture was stirred under nitrogen for 15 minutes. The solution was allowed to warm to room temperature and a solution of 7.24 g. of α-bromoacetyl-β-diethylamino-3-trifluoromethylstyrene in 10 ml. of tetrahydrofuran was added. The mixture was stirred and heated under reflux overnight. The tetrahydrofuran was stripped off to leave an oil which was dissolved in chloroform and the solution was washed with 1 N hydrochloric acid, 0.1 N sodium hydroxide and saturated sodium chloride. Removal of the chloroform left an oil. One gram of this oil was removed and the remainder was heated under reflux with 25 ml. of N,N-dimethylformamide dimethylacetal for 3 days. The excess dimethylformamide acetal was stripped off and a solution of 5.0 grams of methylamine hydrochloride in 50 ml. of ethanol was added. This solution was heated under reflux for 24 hours. The reaction was poured into methylene chloride and the resulting solution was washed with 1 N hydrochloric acid, 1 N sodium hydroxide and saturated sodium chloride, then dried over magnesium sulfate, filtered, and the solvent stripped. The residue was triturated under diisopropyl ether to give crystalline 3-ethylthio-1-methyl-5 -(α,α,α-trifluoro-m-tolyl)-4(1H)-pyridone, m.p. 84°-85° C. The overall yield was 2.5 g. (40%).

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethanethiol | C(C)S | C2H6S
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | α-bromoacetyl-β-diethylamino-3-trifluoromethylstyrene | BrCC(=O)C(=CC1=CC(=CC=C1)C(F)(F)F)N(CC)CC | C15H17BrF3NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-ethylthio-1-methyl-5 -(α,α,α-trifluoro-m-tolyl)-4(1H)-pyridone | C(C)SC1=CN(C=C(C1=O)C=1C=C(C=CC1)C(F)(F)F)C | C15H14F3NOS
